US08476434B2
To a slurry of 4-(2-(4-amino-2-methylphenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.500 g, 1.63 mmol) in THF (3.3 mL) under nitrogen was added 1-chloro-2-isocyanatoethane (0.157 mL, 1.79 mmol). The reaction became clear and brown, and then a precipitate formed. Additional THF (4 mL) was added to promote stirring, and the reaction was allowed to stir for 16 h. The mixture was filtered, the solid was rinsed with diethyl ether, and dried in vacuo to give 1-(2-chloroethyl)-3-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)urea as a tan solid. MS m/z=413 [M+1]+. Calc'd for C20H21ClN6O2: 412.14.

reactant | 4-(2-(4-amino-2-methylphenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 1.63 mmol, 0.500 g | NC1=CC(=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1)C | C17H17N5O
reactant | 1-chloro-2-isocyanatoethane | 1.79 mmol, 0.157 mL | ClCCN=C=O | C3H4ClNO
solvent | THF | 3.3 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(2-chloroethyl)-3-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)urea | ClCCNC(=O)NC1=CC(=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)C | C20H21ClN6O2
